US04405357
To a stirred solution of 4.0 grams (0.023 mole) of methyl 3-acetoxy-2,2-dimethylpropionate in 50 ml of carbon tetrachloride under an argon atmosphere was added slowly via a syringe 9.2 grams (0.046 mole) of iodotrimethylsilane. Upon completion of addition the reaction mixture was stirred at ambient temperature for 60 hours. The reaction mixture was then heated at 50° for 1.5 hours, and at 65° for 18 hours. Nuclear magnetic resonance spectroscopy indicated the reaction had not gone to completion. The reaction mixture was heated at 65° for six days, then poured into 100 ml water. The mixture was stirred for 20 minutes and the carbon tetrachloride layer separated. The water layer was extracted with three portions of 50 ml each of methylene chloride. The methylene chloride extracts and the carbon tetrachloride layer were combined. The combination was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give a semi-solid residue. The semi-solid was dissolved in hot ethyl acetate and treated with decolorizing charcoal. The mixture was filtered and the filtrate concentrated under reduced pressure to give a solid residue. The solid was recrystallized from hexane to give 1.5 grams of 3-acetoxy-2,2-dimethylpropionic acid; mp 56°-59°.

reactant | methyl 3-acetoxy-2,2-dimethylpropionate | 0.023 mole, 4.0 grams | C(C)(=O)OCC(C(=O)OC)(C)C | C8H14O4
reactant | iodotrimethylsilane | 0.046 mole, 9.2 grams | I[Si](C)(C)C | C3H9ISi
reactant | water | 100 ml | O | H2O
reactant | charcoal | C | CH4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-acetoxy-2,2-dimethylpropionic acid | 1.5 grams | C(C)(=O)OCC(C(=O)O)(C)C | C7H12O4
